US09278940B2
To a solution of 3-(4-isopropylpiperazin-1-yl)-5-methoxybenzaldehyde (1.23 g, 4.68 mmol) in N,N-dimethylacetamide (20 mL) was added 2-amino-4,6-dimethoxybenzamide (0.59 g, 3.00 mmol), NaHSO3 (58.5 wt %, 0.87 g, 4.80 mmol) and p-toluenesulfonic acid monohydrate (1.82 g, 9.60 mmol). The reaction mixture was stirred at 120° C. for 20 h under nitrogen. After that time the reaction was cooled to rt and concentrated under reduced pressure. The residue was diluted with saturated Na2CO3 solution to adjust the pH to 12. The precipitated solids were collected by filtration, washed with water and dried under vacuum. The product was purified by flash column chromatography (silica gel, 86:10:4 dichloromethane/ethyl acetate/methanol followed by 86:10:4 dichloromethane/ethyl acetate/7 N NH3 in methanol) and prep. HPLC to give 2-(3-(4-isopropylpiperazin-1-yl)-5-methoxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one (1.04 g, 50%) as a white solid: mp 212-213° C.; 1H NMR (400 MHz, DMSO-d6): δ 11.99 (s, 1H), 7.36 (s, 1H), 7.20 (s, 1H), 6.76 (d, J=2.34 Hz, 1H), 6.60 (t, J=1.95 Hz, 1H), 6.53 (d, J=1.95 Hz, 1H), 3.90 (s, 3H), 3.85 (s, 3H), 3.81 (s, 3H), 3.22 (t, J=4.29 Hz, 4H), 2.68 (quin, J=6.54 Hz, 1H), 2.58 (t, J=4.68 Hz, 4H), 1.01 (d, J=6.63 Hz, 6H); ESI MS m/z 437 [M−H]−.

reactant | 3-(4-isopropylpiperazin-1-yl)-5-methoxybenzaldehyde | 4.68 mmol, 1.23 g | C(C)(C)N1CCN(CC1)C=1C=C(C=O)C=C(C1)OC | C15H22N2O2
reactant | 2-amino-4,6-dimethoxybenzamide | 3.00 mmol, 0.59 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | NaHSO3 | 4.80 mmol, 0.87 g | OS(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 9.60 mmol, 1.82 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 2-(3-(4-isopropylpiperazin-1-yl)-5-methoxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 1.04 g, 50% | C(C)(C)N1CCN(CC1)C=1C=C(C=C(C1)OC)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C24H30N4O4
